US05879657
Boc-Asp(OcHex)-2-aminomethylphenylacetic Acid
To a suspension of 2-aminomethylphenylacetic acid.HCl (4.0 g, 20 mmol) in H2O (20 ml) was added NaHCO3 (5.0 g, 60 mmol), followed by a solution of Boc-Asp(OcHex)-OSu (7.5 g, 18 mmol) in THF (20 ml). The reaction mixture was stirred at room temperature for 3 hours, filtered, diluted with H2O, acidified with 1N HCl, and extracted with ethyl acetate. The extracts were washed with H2O, brine, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure. This material was triturated with ether to provide the title compound (7.0 g, 83%) as a white powder. 1H NMR (D6 -DMSO) 12.40 (br s, 1H), 8.30 (br t, 1H), 7.20 (m, 5H), 4.65 (m, 1H), 4.35 (q, 1H), 4.25 (m, 2H), 3.65 (s, 2H), 2.70 (dd, 1H), 2.55 (dd, 1H), 1.70 (m, 4H), 1.40 (s, 9H), 1.35 (m, 6H).

reactant | 2-aminomethylphenylacetic acid | NCC1=C(C=CC=C1)CC(=O)O | C9H11NO2
reactant | HCl | 20 mmol, 4.0 g | Cl | ClH
reactant | NaHCO3 | 60 mmol, 5.0 g | C(=O)(O)[O-].[Na+]
reactant | Boc-Asp(OcHex)-OSu | 18 mmol, 7.5 g | N([C@@H](CC(OC1CCCCC1)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C19H28N2O8
solvent | H2O | 20 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Boc-Asp(OcHex) 2-aminomethylphenylacetic Acid | 7.0 g, 83% | N([C@@H](CC(OC1CCCCC1)=O)C(=O)O)C(=O)OC(C)(C)C.NCC1=C(C=CC=C1)CC(=O)O | InChI=1S/C15H25NO6.C9H11NO2/c1-15(2,3)22-14(20)16-11(13(18)19)9-12(17)21-10-7-5-4-6-8-10;10-6-8-4-2-1-3-7(8)5-9(11)12/h10-11H,4-9H2,1-3H3,(H,16,20)(H,18,19);1-4H,5-6,10H2,(H,11,12)/t11-;/m0./s1
